Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / latex / iodine
 
Attending: ___
 
Chief Complaint:
S/P Fall
 
Major Surgical or Invasive Procedure:
___ Complex Head Laceration Repair w/Skin Graft

 
History of Present Illness:
___ female with history of COPD, CKD (unclear baseline), 
CHF (unclear when last echo was), baseline dementia presenting 
with complaint of unwitnessed fall from her nursing home 
facility. Patient initially presented to ___ and was 
then transferred to ___ for plastic surgery evaluation. On 
arrival she had a large complex facial laceration with extension 
into muscle and likely some skull exposure. Head CT without
hemorrhage. Labs there notable for severe hyponatremia of 122 
without comparison, improved to 125 on arrival to ___. Exam 
also notable for diffuse wheezing and mild tachypnea concerning 
for likely COPD exacerbation, treated with IV Solu-Medrol and 
nebs while at ___. Pain managed with IV Tylenol at 
___.

On arrival, patient denies any chest pain, SOB, dysuria, N/V, 
abdominal pain. She endorses ongoing pain in R forehead. TDaP 
vaccine administered at ___. Patient has MOLST stating 
DNR/DNI. 

Initial VS: T 98.1, HR 88, BP 151/95, RR 18, 96% 2L NC  
Exam:  
Gen: Confused, pleasant
HEENT: Large complex facial laceration with extension into 
muscle and likely some skull exposure. Dried blood across R side 
of forehead
CV: RRR
Pulm: Wheezing, poor inspiratory effort
Ext: Trace b/l ___ edema 

Pertinent labs/imaging studies:
Hgb stable at 10.2, WBC 12.1 with left shift, Plt 303. Na 125. 
Cl 82. BUN 25, Cr. 0.8. CK 81. Lactate 1.7, Serum Osm 263.

Trop 0.03, 0.04, <0.01, BNP ___lood, protein, pos nitrates, small leuks, 15 WBC, 
few bacteria

Urine osm: 290, Na 80, Cr. 15

CT C-Spine (___):
1.  No CT evidence of cervical spine fracture.
2.  Multilevel degenerative changes of the cervical spine.
3.  A 1.7 cm groundglass nodular opacity with suggestion of a 
1.2 x 0.6 x 0.5 cm solid nodular component abutting the pleura. 
Per ___ ___ guidelines, follow-up CT of the 
chest without contrast is recommended in 3 months.
4.  Findings of tracheomalacia with air trapping within the 
upper lobes.

NCHCT:
1. Right frontal scalp and dermal injury and vertex scalp injury 
with subcutaneous hematoma.
2. No acute intracranial abnormality identified.

CXR:
1. Mild pulmonary vascular congestion with trace interstitial 
edema. 
2. Probable trace bilateral pleural effusions, left greater than 
right. 
3. Superior subluxation of the right humeral head can be seen in 
the setting 
of rotator cuff tear. 

Patient received:  CTX, Duonebs, Home Medications

On arrival to the floor, the patient denies fevers, chills, or 
chest pain. She has some shortness of breath that feels about at 
baseline. No dysuria, constipation, or diarrhea. She is upset 
that she is in the hospital and wants to get dressed and go 
home. 
 
Past Medical History:
- Dementia
- Anxiety 
- Hypertension
- Congestive Heart Failure

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION
=========
Vitals:  ___ 1123 Temp: 97.7 PO BP: 151/74 L Lying HR: 73
RR: 21 O2 sat: 95% O2 delivery: 2L FSBG: 135 
General: Alert, somewhat agitated, wants to go home, not in
obvious pain.
HEENT: R periorbital ecchymosis, supraorbital repaired 
laceration
with dressing c/d/i
Neck: Supple, non-tender
Lungs: Diminished breath sounds at the bases bilaterally, mild
rales and wheezing bilaterally.
CV: RRR, IV/VI blowing holsystolic murmur best heard at the apex
GI: Soft, non-tender and non-distended, BS+
Ext: 2+ pitting edema bilaterally
Neuro: Alert and oriented to person only. Unable to raise R
eyebrow due to suture but otherwise no focal neurologic deficit.

DISCHARGE
=========
Same
 
Pertinent Results:
ADMISSION
=========
___ 05:50AM   PLT COUNT-303
___ 05:50AM   NEUTS-92.2* LYMPHS-2.6* MONOS-3.2* EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-11.14* AbsLymp-0.31* AbsMono-0.38 
AbsEos-0.01* AbsBaso-0.02
___ 05:50AM   WBC-12.1* RBC-3.76* HGB-10.2* HCT-30.3* 
MCV-81* MCH-27.1 MCHC-33.7 RDW-16.1* RDWSD-47.0*
___ 05:50AM   OSMOLAL-263*
___ 05:50AM   CK-MB-3 cTropnT-<0.01 ___ 05:50AM   CK(CPK)-81
___ 05:50AM   estGFR-Using this
___ 05:50AM   GLUCOSE-125* UREA N-25* CREAT-0.8 SODIUM-125* 
POTASSIUM-4.5 CHLORIDE-82* TOTAL CO2-28 ANION GAP-15
___ 06:08AM   LACTATE-1.7
___ 07:35AM URINE  RBC-<1 WBC-15* BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 07:35AM URINE  BLOOD-TR* NITRITE-POS* PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-SM*
___ 07:35AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:35AM URINE  OSMOLAL-290
___ 07:35AM URINE  HOURS-RANDOM CREAT-15 SODIUM-80

IMAGING
=======
CXR ___:
1. Mild pulmonary vascular congestion with trace interstitial 
edema.
2. Probable trace bilateral pleural effusions, left greater than 
right.
3. Superior subluxation of the right humeral head can be seen in 
the setting of rotator cuff tear.
 
Brief Hospital Course:
SUMMARY
=======
Ms. ___ is a ___ with a history of CAD, CHF, possible 
COPD, and advanced dementia who resides in assisted living on 
hospice who presents after a fall. She was seen by plastic 
surgery in the ED and underwent a skin graft and closure and was 
admitted for further lab workup of hyponatremia. On arrival to 
the floor, it was determined that she was on hospice for 
end-stage CHF, at baseline mental status, and would not want any 
further lab workup/treatments so she was discharged back to her 
assisted living facility after talking to the facility, her 
hospice provider, and her HCP, all of whom were in agreement 
that this was the best plan for her at this time.

#S/P Fall
Unwitnessed fall at nursing home, unclear historian in the 
setting of dementia. Trop mildly elevated on admission but 
stable, EKG without ischemic changes, so less concerning for 
cardiogenic syncope. Per reports from facility, sounds like 
mechanical fall from a chair. Plastic surgery consulted, s/p 
closure w/ 2x2 cm skin graft and local flap with good 
hemostasis.

#GOC
Per records that arrive with patient, she is current on 
___ since ___. Will obtain information about 
family and/or hospice agency regarding GOC and further 
hospitalization. Per discussion with the patient and her 
daughter-in-law and HCP, they want her to return to her assisted 
living facility with no further lab workup or new medications 
unless they are for comfort.

#CHF
#Hyponatremia
Na 122 on admission to ___, unclear baseline. Confused, 
but also in the setting of dementia. FeNA 3.4%, Serum Osm 263. 
BNP ___ on admission, unclear baseline. Overloaded on exam with 
known extensive CHF history. Per hospice, significant O2 
requirement at baseline with desaturations with movement. Will
defer further lab work/treatments as the patient seems to be at 
baseline mentally and has not had recent labs because she has 
been on hospice as above.

#Dementia
Seems to be at baseline per collateral from family/facility
- Continued Quetiapine 25MG BID, delirium precautions

#Positive UA
UA with positive nitrates, 15WBC, few bacteria. No symptoms 
currently and at baseline per family at bedside. Will defer 
treatment at this time.

TRANSITONAL ISSUES
==================
[] If questions about R eye wound or care, call the plastic 
surgery clinic at ___ for an outpatient visit if 
necessary.
[] OK to stop aspirin for CAD unless this is a comfort 
medication. Ongoing pain management per hospice team
[] Continue to monitor for signs of UTI. Some WBCs on UA and 
treated with antibiotics in the ED, but deffering further 
treatment currently as she does not endorse any symptoms. 
Consider treatment if symptoms return and/or are bothering to 
her.
[] Incidental lung nodules found on CT C-Spine at ___. 
Could consider repeat CT in three months, but would probably not 
given that further investigation/treatment is not within her 
goals of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BusPIRone 10 mg PO BID 
2. TraZODone 25 mg PO BID 
3. Furosemide 40 mg PO EVERY OTHER DAY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. QUEtiapine Fumarate 25 mg PO BID 
7. PredniSONE 10 mg PO DAILY 
8. MetOLazone 2.5 mg PO 2X/WEEK (___) 
9. LORazepam 0.5 mg PO QHS 
10. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing 

 
Discharge Medications:
1.  BusPIRone 10 mg PO BID  
2.  Furosemide 40 mg PO EVERY OTHER DAY  
3.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing  
4.  LORazepam 0.5 mg PO QHS  
5.  MetOLazone 2.5 mg PO 2X/WEEK (___)  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  PredniSONE 10 mg PO DAILY  
8.  QUEtiapine Fumarate 25 mg PO BID  
9.  TraZODone 25 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
=======
Head Laceration s/p Fall

SECONDARY
=========
End Stage Congestive Heart Failure
Coronary Artery Disease
Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You fell and hit your head and had some lab abnormalities.  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were seen by the plastic surgeons who stitched your head.

- Your lab abnormalities are likely secondary to your known 
heart disease. After talking to you and your family we decided 
that you did not want any further lab workup and that you should 
return home with the hospice care that you had been receiving.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines, discuss with your hospice 
providers about any pain management needs and enjoy your time 
with friends and family! 

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___